US09301951B2
Intermediate 270f 3-(2,2-dimethyl-4-oxo-3,8,11,14,17-pentaoxa-5-azaicosan-20-yl)benzoic acid
Into a 500-mL round-bottom flask, was placed a solution of benzyl 3-(2,2-dimethyl-4-oxo-3,8,11,14,17-pentaoxa-5-azaicos-19-yn-20-yl)benzoate (16 g, 29.52 mmol, 1.00 equiv) in methanol (200 mL), Palladium carbon (10 g). Hydrogen gas was introduced into the reaction vessel. The resulting solution was stirred for 3 h at room temperature. The solids were filtered out. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5-1:1). This resulted in 7 g (52%) of 3-(2,2-dimethyl-4-oxo-3,8,11,14,17-pentaoxa-5-azaicosan-20-yl)benzoic acid as pale-yellow oil. LC-MS (ES, m/z): 456 [M+H]+ H-NMR (300 MHz, DMSO, ppm): 7.76 (dd, J=6.0 Hz, 2H), 7.37-7.47 (m, 2H), 6.73 (s, 1H), 3.35-3.52 (m, 16H), 3.05 (dd, J=11.7 Hz, 2H), 2.69 (t, J=7.5 Hz, 2H), 1.76-1.85 (m, 2H), 1.36 (s, 9H).

reactant | benzyl 3-(2,2-dimethyl-4-oxo-3,8,11,14,17-pentaoxa-5-azaicos-19-yn-20-yl)benzoate | 29.52 mmol, 16 g, 1.00 equiv | CC(C)(OC(NCCOCCOCCOCCOCC#CC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1)=O)C | C30H39NO8
reactant | Hydrogen | [H][H] | H2
solvent | methanol | 200 mL | CO | CH4O
catalyst | Palladium carbon | 10 g | [C].[Pd]
product | 3-(2,2-dimethyl-4-oxo-3,8,11,14,17-pentaoxa-5-azaicosan-20-yl)benzoic acid | CC(C)(OC(NCCOCCOCCOCCOCCCC=1C=C(C(=O)O)C=CC1)=O)C | C23H37NO8
